US07713994B2
(4Z)-6-Bromo-4-{[(4-hydroxy-3-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (3a)
An amount of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.3 g, 1.06 mmol) in N,N′-dimethylformamide is added to 0.2 g (1.06 mmol) of 4-hydroxyl-3-methoxybenzylamine hydrochloride, and 0.22 mL (2.12 mmol) of triethylamine. The reaction mixture is stirred at room temperature under N2 for 2 h. Diethyl ether is added and the resulting tan precipitate is collected and washed successively with methanol, ether, and hexane to yield 0.28 g (65.1% yield) of light yellow solid: mp 260-261° C.; 1H NMR (DMSO-d6) δ 11.07 (s, 1H), 10.69 (m, 1H), 9.02 (bs, 1H), 8.71 (d, J=9 Hz, 1H), 8.10 (s, 1H), 7.87 (d, J=9 Hz, 1H), 7.30 (d, J=6 Hz, 1H), 7.02 (s, 1H), 6.78 (m, 2H), 4.60 (d, J=4.8 Hz, 2H), 3.78 (s, 3H); MS (ESI) m/z 403.1 (M−H)−1, Analysis for C18H15BrN2O4.(0.33H2O), Calcd: C, 52.98; H, 3.76; N, 6.96. Found: C, 52.83; H, 3.86; N, 6.85.

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 1.06 mmol, 0.3 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 4-hydroxyl-3-methoxybenzylamine hydrochloride | 1.06 mmol, 0.2 g | Cl.OC1=C(C=C(CN)C=C1)OC
reactant | triethylamine | 2.12 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | N,N′-dimethylformamide | CN(C)C=O | C3H7NO
product | (4Z)-6-Bromo-4-{[(4-hydroxy-3-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 65.1% yield | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)O)OC | C18H15BrN2O4
